US04876370
Pentane (120 cc), acetonitrile (120 cc), 4-bromo-3-methyl-2-butenal (9 g, 107 mmol) and triethylamine (13 g) are introduced under an argon atmosphere into a 500-cc three-necked round-bottomed flask. The temperature is kept at 0° C. and bromotrimethylsilane (19.6 g) is then added over 20 minutes. The mixture is stirred for 2 days at a temperature in the region of 20° C. The pentane solution is sampled with a syringe and is then replaced with an equivalent quantity of pentane. The operation is repeated 4 times. The various pentane solutions are combined and the pentane is removed, any entry of air being excluded. The residue obtained is purified by distillation. 1-Bromo-2-methyl-4-trimethylsilyloxybutadiene (6.5 g) is thus obtained (B.P.0.25 =59° C.).

reactant | acetonitrile | 120 cc | C(C)#N | C2H3N
reactant | 4-bromo-3-methyl-2-butenal | 107 mmol, 9 g | BrCC(=CC=O)C | C5H7BrO
reactant | bromotrimethylsilane | 19.6 g | Br[Si](C)(C)C | C3H9BrSi
solvent | pentane | CCCCC | C5H12
solvent | triethylamine | 13 g | C(C)N(CC)CC | C6H15N
solvent | Pentane | 120 cc | CCCCC | C5H12
product | 1-Bromo-2-methyl-4-trimethylsilyloxybutadiene | 6.5 g | BrC=C(C=CO[Si](C)(C)C)C | C8H15BrOSi
